US05387603
To a solution of 2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethanol (210 mg) in methylene chloride (1 ml) were added triethylamine (186 μl) and methanesulfonyl chloride (83 μl) with stirring under ice cooling, and the mixture was reacted at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure. To the concentrate was added water, and the mixture was extracted with diethyl ether. The extract was washed with water, dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on silica gel using a mixture of hexane and ethyl acetate (2/1) as eluent to give 273 mg of 2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethyl methansulfonate melting at 40.5°-42.0° C.

reactant | 2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethanol | 210 mg | FC(COC1=C(OCCO)C=CC=C1)(F)F | C10H11F3O3
reactant | triethylamine | 186 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 83 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethyl methansulfonate | 273 mg | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC(F)(F)F | C11H13F3O5S
